US08710223B2
Synthesis of 2-cyclopropyl-3-fluoro-5-nitroaniline
A mixture of 2-bromo-3-fluoro-5-nitroaniline (1.6 g, 6.81 mmol, 1 equiv), cyclopropylboronic acid MIDA ester (Aldrich; 4.0 g, 20.43 mmol, 3 equiv), Pd(OAc)2 (238 mg, 1.06 mmol, 0.15 equiv), Cy3P (578 mg, 2.06 mmol, 0.3 equiv) and Cs2CO3 (13.26 g, 40.8 mmol, 6 equiv) in toluene (70 mL) and H2O (14 mL) was de-gassed with N2 for 5 minutes. The mixture was then heated at 100° C. (oil bath temperature) overnight. After allowing to cool to room temperature, the mixture was diluted with EtOAc (100 mL) and H2O (50 mL) and the mixture filtered through Celite. The filter cake was washed with EtOAc (2×50 mL) and the filtrate partitioned. The organic layer was evaporated under vacuum to leave a crude residue which was purified by column chromatography on silica gel using EtOAc/hexanes (1:4) as eluent to give the product (1.2 g, 90%) as a dark yellow solid.

reactant | 2-bromo-3-fluoro-5-nitroaniline | 6.81 mmol, 1.6 g, 1 equiv | BrC1=C(N)C=C(C=C1F)[N+](=O)[O-] | C6H4BrFN2O2
reactant | cyclopropylboronic acid MIDA ester | 20.43 mmol, 4.0 g, 3 equiv | B1(OC(=O)CN(CC(=O)O1)C)C2CC2 | C8H12BNO4
reactant | Cy3P | 2.06 mmol, 578 mg, 0.3 equiv | P(C1CCCCC1)(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | Cs2CO3 | 40.8 mmol, 13.26 g, 6 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 14 mL | O | H2O
catalyst | Pd(OAc)2 | 1.06 mmol, 238 mg, 0.15 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-cyclopropyl-3-fluoro-5-nitroaniline | 1.2 g, 90% | C1(CC1)C1=C(N)C=C(C=C1F)[N+](=O)[O-] | C9H9FN2O2
